US03948885
1. 4-Hydroxy-1,2,3-triazole-5-carboxamide (3)
To a solution of sodium ethoxide obtained from sodium (2.3 g, 0.10 mole) and absolute ethanol (150 ml) was added malondiamide (10.2 g, 0.10 mole). The mixture was stirred until most of the malondiamide dissolved. p-Toluenesulfonyl azide (19.7 g, 0.10 mole) was dissolved in ethanol (20 ml) and added dropwise with stirring. The thick mixture was stirred at room temperature for 30 min and heated under reflux in an oil bath for an additional 30 min. The mixture was cooled and the sodium salt was removed by filtration and washed with ethanol followed by ether. The salt was dissolved in a minimum of hot water and the solution was acidified to pH 2 with dilute hydrochloric acid. Upon cooling, the product crystallized. The compound was recrystallized from water to give 9.0 g of the known compound 4-hydroxy-1,2,3-triazole-5-carboxamide, m.p. 191°-192°.

reactant | malondiamide | 0.10 mole, 10.2 g | C(C(=O)N)C(=O)N | C3H6N2O2
reactant | p-Toluenesulfonyl azide | 0.10 mole, 19.7 g | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-Hydroxy-1,2,3-triazole-5-carboxamide | 9.0 g | OC=1N=NNC1C(=O)N | C3H4N4O2
